US04344954
2-(p-Chlorophenyl)-2,3,5,6,7,8-hexahydro-3-[3,4-(methylenedioxy)phenyl]thiazolo[3,2-a][1,3]diazepin-3-ol hydrochloride
A mixture of 1.55 ml. of methanesulfonyl chloride and 40 ml. of toluene is added over a period of one hour to a stirred mixture of 5.8 g. of 4'-chloro-3,4-(methylenedioxy)benzoin, 5.6 ml. of triethylamine and 20 ml. of toluene. The mixture is allowed to stand 4 hours, 50 ml. of water and more toluene are added, the organic layer is separated, washed with water, dried, refrigerated and then concentrated to an oil, giving 8.3 g. of the methanesulfonate ester. This oil is dissolved in 30 ml. of acetone and added to a stirred mixture of 1.95 g. of hexahydro-2H-1,3-diazepin-2-thione in 150 ml. of acetone. The mixture is allowed to stand for 3 hours, heated at 45°-50° C. for 3 hours, refrigerated overnight and concentrated to about 1/3 its original volume. An equal volume of ether is added producing a gum. The solvent is removed, 100 ml. of water and 2 ml. of ammonium hydroxide are added. The solid is collected, washed with water, dried and dissolved in 25 ml. of ethanol. This solution is refrigerated, then filtered and to the filtrate are added alcoholic hydrogen chloride and ether. After refrigeration, the solid is filtered, washed with ether, boiled with 25 ml. of ethanol and filtered. The filtrate is treated with alcoholic hydrogen chloride and cooled, giving 0.41 g. of the desired product, m.p. 184°-186° C.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4'-chloro-3,4-(methylenedioxy)benzoin | ClC1=CC=C(C(C(C2=CC3=C(C=C2)OCO3)=O)O)C=C1 | C15H11ClO4
reactant | hexahydro-2H-1,3-diazepin-2-thione | N1C(NCCCC1)=S | C5H10N2S
solvent | acetone | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(p-Chlorophenyl)-2,3,5,6,7,8-hexahydro-3-[3,4-(methylenedioxy)phenyl]thiazolo[3,2-a][1,3]diazepin-3-ol hydrochloride | Cl.ClC1=CC=C(C=C1)C1C(N2C(=NCCCC2)S1)(O)C1=CC2=C(C=C1)OCO2 | InChI=1S/C20H19ClN2O3S.ClH/c21-15-6-3-13(4-7-15)18-20(24,23-10-2-1-9-22-19(23)27-18)14-5-8-16-17(11-14)26-12-25-16;/h3-8,11,18,24H,1-2,9-10,12H2;1H
